US07414049B2
c) (S)-3-Amino-8-fluoro-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride
In an analogous procedure to that described in Example 1d), the treatment of the [(S)-7-fluoro-4-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester with hydrochlorid acid (37%) in dioxane yielded the title compound as a light brown foam; MS (m/e): 278 (M+H)+.

reactant | [(S)-7-fluoro-4-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N(C1)CC(F)(F)F)C=CC(=C2)F)=O)=O | C16H19F4N3O3
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-8-fluoro-5-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride | Cl.N[C@H]1CN(C2=C(NC1=O)C=C(C=C2)F)CC(F)(F)F | InChI=1S/C11H11F4N3O.ClH/c12-6-1-2-9-8(3-6)17-10(19)7(16)4-18(9)5-11(13,14)15;/h1-3,7H,4-5,16H2,(H,17,19);1H/t7-;/m0./s1
